US04458075
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(1-hydroxyethyl)-4-phenylpiperidine hydrochloride
To a mixture of 50 ml of 2-propanol and 10 ml of methanol, was added 2.8 g of 4-acetyl-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)-propyl]-4-phenylpiperidine hydrochloride and 0.76 g of sodium borohydride. After stirring at ambient temperature for twenty hrs, the mixture was evaporated. The residue was stirred with 100 ml of water for ten mins and then extracted with ether. The ether extract was washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the ether solution was acidified to pH 1 with ethereal hydrogen chloride. The resultant precipitate was collected and dried to give 2.3 g (78%) of product, mp 80° C. Recrystallization from ethyl acetate/methanol (9:1) gave the analytical sample, mp 143°-147° C.

reactant | 2-propanol | 50 ml | CC(C)O | C3H8O
reactant | 4-acetyl-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)-propyl]-4-phenylpiperidine hydrochloride | 2.8 g | Cl.C(C)(=O)C1(CCN(CC1)CCCC1=NOC2=C1C=CC(=C2)F)C2=CC=CC=C2
reactant | sodium borohydride | 0.76 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(1-hydroxyethyl)-4-phenylpiperidine hydrochloride | 2.3 g, 78% | Cl.FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)(C2=CC=CC=C2)C(C)O)C=C1 | InChI=1S/C23H27FN2O2.ClH/c1-17(27)23(18-6-3-2-4-7-18)11-14-26(15-12-23)13-5-8-21-20-10-9-19(24)16-22(20)28-25-21;/h2-4,6-7,9-10,16-17,27H,5,8,11-15H2,1H3;1H
